### PR TITLE
[Merged by Bors] - feat: submodule of multivariate polynomials of bounded degrees

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Degrees.lean [hunk 1]
```diff
@@ -524,6 +524,53 @@ theorem totalDegree_rename_le (f : σ → τ) (p : MvPolynomial σ R) :
...
+  rw [le_antisymm_iff, Submodule.mul_le]
+  refine ⟨fun x hx ↦ ?_, fun x hx y hy ↦ degrees_mul_le.trans (add_le_add hx hy)⟩
+  rw [x.as_sum]
+  refine sum_mem fun i hi ↦ ?_
+  replace hi : i.toMultiset ≤ s + t := (Finset.le_sup hi).trans hx
+  let a := (i.toMultiset - t).toFinsupp
+  let b := (i.toMultiset ⊓ t).toFinsupp
+  have : a + b = i := Multiset.toFinsupp.symm.injective (by simp [a, b, Multiset.sub_add_inter])
+  have ha : a.toMultiset ≤ s := by simpa [a, add_comm (a := t)] using hi
+  have hb : b.toMultiset ≤ t := by simp [b, Multiset.inter_le_right]
```
Comment (alreadydone) [inline Mathlib/Algebra/MvPolynomial/Degrees.lean:556]: Seems like [Multiset.sub_add_inter](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Multiset/Basic.html#Multiset.sub_add_inter) and [Multiset.sub_le_iff_le_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Multiset/Basic.html#Multiset.sub_le_iff_le_add) are all you need and Finsupp is not needed.

Comment (YaelDillies) [reply Mathlib/Algebra/MvPolynomial/Degrees.lean:556]: What do you mean? I want `a` and `b` to be finsupps because that's what `degrees_monomial` expects

Comment (alreadydone) [reply Mathlib/Algebra/MvPolynomial/Degrees.lean:556]: Oh, I thought you just want to show if `u ≤ s + t` then there exists `us` and `ut` such that `us ≤ s`, `ut ≤ t` and `u = us + ut`. Looks like something else is involved. I'll investigate later.

File: Mathlib/Algebra/MvPolynomial/Degrees.lean [hunk 2]
```diff
@@ -524,6 +524,53 @@ theorem totalDegree_rename_le (f : σ → τ) (p : MvPolynomial σ R) :
...
+  have : monomial i (x.coeff i) = monomial a (x.coeff i) * monomial b 1 := by simp [this]
+  rw [this]
```
Comment (alreadydone) [inline Mathlib/Algebra/MvPolynomial/Degrees.lean:558]:
```suggestion
  refine ⟨fun x hx ↦ x.as_sum ▸ sum_mem fun i hi ↦ ?_,
    fun x hx y hy ↦ degrees_mul_le.trans (add_le_add hx hy)⟩
  replace hi : i.toMultiset ≤ s + t := (Finset.le_sup hi).trans hx
  let a := (i.toMultiset - t).toFinsupp
  let b := (i.toMultiset ⊓ t).toFinsupp
  have : a + b = i := Multiset.toFinsupp.symm.injective (by simp [a, b, Multiset.sub_add_inter])
  have ha : a.toMultiset ≤ s := by simpa [a, add_comm (a := t)] using hi
  have hb : b.toMultiset ≤ t := by simp [b, Multiset.inter_le_right]
  rw [show monomial i (x.coeff i) = monomial a (x.coeff i) * monomial b 1 by simp [this]]
```

**Review by alreadydone — APPROVED** [review]
Thanks 🎉
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
